US05849482
3-(2-Trifluoroacetamidoethoxy)propyne
(2-Propargyloxyethyl)amine (13.8 g, 0.14 mol) is stirred and chilled in an iso-propanol-dry ice bath while excess of trifluoroacetic anhydride (26 ml, 0.18 mol) is added dropwise. N-(2-Propargyloxyethyl)trifluoroacetamide is distilled at 84°-85 °/1.7 torr as an oil which solidified upon refrigeration; yield 14.4 g (52%), m.p. (16°, np24 1.4110. Anal. Calcd. for C7H8F3NO2 : C, 43.09, H, 4.13; N, 7.18; F, 29.21. Found: C, 42.80; H, 4.03; N, 7.06; F, 29.38.

reactant | (2-Propargyloxyethyl)amine | 0.14 mol, 13.8 g | C(C#C)OCCN | C5H9NO
reactant | trifluoroacetic anhydride | 0.18 mol, 26 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 3-(2-Trifluoroacetamidoethoxy)propyne | FC(C(=O)NCCOCC#C)(F)F | C7H8F3NO2
